US07396849B2
A mixture of 4-iodo-1-tritylimidazole (commercially available from Synchem) (6.3 g, 14.4 mmol) in dichloromethane (100 mL) at rt was treated with ethyl magnesium bromide (4.8 mL, 14.4 mmol, 3M in THF) and allowed to react for 1 h. A solution of benzo[1,2,5]thiadiazole-4-carboxylic acid methoxy-methyl-amide (Intermediate L2) (2.0 g, 9.0 mmol) in dichloromethane (50 mL) was added via syringe at rt and stirred for 40 m. The residue was isolated in a typical aqueous workup and purified by chromatography on silica gel with 30% EtOAc:hexane to give benzo[1,2,5]thiadiazol-4-yl-(1-trityl-1H-imidazol-4-yl)-methanone (Intermediate L3), 1 g (25%).

reactant | 4-iodo-1-tritylimidazole | IC=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C22H17IN2
reactant | ethyl magnesium bromide | 14.4 mmol, 3M, 4.8 mL | C(C)[Mg]Br
reactant | benzo[1,2,5]thiadiazole-4-carboxylic acid methoxy-methyl-amide | 9.0 mmol, 2.0 g | CON(C(=O)C1=CC=CC=2C1=NSN2)C | C9H9N3O2S
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | benzo[1,2,5]thiadiazol-4-yl-(1-trityl-1H-imidazol-4-yl)-methanone | N1=C2C(=NS1)C(=CC=C2)C(=O)C=2N=CN(C2)C(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2 | C29H20N4OS
